US08168802B2
tert-Butyl nitrite (6.2 g, 0.060 mol) was added over a period of five minutes to solution of 5-amino-2-butyl-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile (6.60 g, 30.0 mmol) in bromoform (50 mL). After about ten minutes, an exotherm occurred, and the reaction was poured into ice water. The reaction temperature peaked at 55° C. The reaction was stirred at room temperature for 45 minutes and then concentrated under reduced pressure while heating at about 55° C. The crude product (20 g) was purified by column chromatography on silica gel (eluting sequentially with dichloromethane and 5% ethyl acetate in dichloromethane) to provide 3.37 g (39%) of 5-bromo-2-butyl-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile as an orange oil.

reactant | tert-Butyl nitrite | 0.060 mol, 6.2 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-2-butyl-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile | 30.0 mmol, 6.60 g | NC1=C(N=C(N1CC(C)C)CCCC)C#N | C12H20N4
reactant | bromoform | 50 mL | C(Br)(Br)Br | CHBr3
product | 5-bromo-2-butyl-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile | 3.37 g, 39% | BrC1=C(N=C(N1CC(C)C)CCCC)C#N | C12H18BrN3
